US03962443
5,8-Dihydro-8-ethyl-2-(1-piperazinyl)-5-oxopyrido[ 2,3-d]pyrimidine-6-carboxylic acid hydrochloride (compound 11)
A mixture containing, 2.0 g of 5,8-dihydro-8-ethyl-2-(4-formyl-1-piperazinyl)-5-oxopyrido[2,3-d]pyrimidine-6-carboxylic acid and 30 ml of 10% aqueous hydrochloric acid was heated at 90° - 95°C for 1 hour. The reaction mixture was concentrated to dryness and addition of ethanol to the residue resulted in the separation of a solid, which was collected and washed with ethanol to yield 1.7 g of the product, m.p. above 300°C.

reactant | 5,8-dihydro-8-ethyl-2-(4-formyl-1-piperazinyl)-5-oxopyrido[2,3-d]pyrimidine-6-carboxylic acid | 2.0 g | C(C)N1C=C(C(C2=C1N=C(N=C2)N2CCN(CC2)C=O)=O)C(=O)O | C15H17N5O4
reactant | hydrochloric acid | 30 ml | Cl | ClH
product | 5,8-Dihydro-8-ethyl-2-(1-piperazinyl)-5-oxopyrido[ 2,3-d]pyrimidine-6-carboxylic acid hydrochloride | 1.7 g | Cl.C(C)N1C=C(C(C2=C1N=C(N=C2)N2CCNCC2)=O)C(=O)O | InChI=1S/C14H17N5O3.ClH/c1-2-18-8-10(13(21)22)11(20)9-7-16-14(17-12(9)18)19-5-3-15-4-6-19;/h7-8,15H,2-6H2,1H3,(H,21,22);1H
